US07759379B2
3-[1-(2-Dimethylamino-acetyl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione
To a solution of 50 mg 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione in 1 ml 1,2-dichloroethane 0.04 ml ethyl-diisopropyl-amine and 13.7 mg chloroacetylchloride were added at 0° C. After stirring for 1 hour at 0° C. 5.5 mg dimethyl-amine were added and the reaction mixture was stirred for 2 days at room temperature. After removing of the solvent under reduced pressure the residue was purified by preparative HPLC (C18 reverse phase column, elution with a water/acetonitrile gradient with 0.1% trifluoroacetic acid). After lyophilization of the solution the resulting crude product was purified in addition by flash chromatography on silica gel with a dichloro-methane/methanol gradient. The fractions containing the product were evaporated to yield a white solid.

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | 50 mg | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C | C25H26N4O2
reactant | chloroacetylchloride | 13.7 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | dimethyl-amine | 5.5 mg | CNC | C2H7N
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 3-[1-(2-Dimethylamino-acetyl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | CN(CC(=O)N1CC(C2=CC=C(C=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)(C)C)C | C29H33N5O3
